US07384934B2
(R)-10-(3-Phenoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
By using a method similr to the coupling method for (S)-2-trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine, 2-methyl-4H-3-thia-4,9-diaza-benzo[f]-azulen-10-ylamine hydrochloride (1.2 g) and (R)-2-phenoxymethyl-piperazine (2.6 g) gives the title compound as a yellow solid (728 mg): mp=64-81° C.: 1H NMR (CDCl3) δ 2.32 (s, 3H), 2.86 (dd, 1H), 3.14-2.94 (m, 3H), 3.32-3.24 (m, 1H), 3.98-3.87 (m, 2H), 4.02 (dd, 1H), 4.11 (bd, 1H), 4.96 (bs, 1H), 6.32-6.30 (m, 1H), 6.61 (dd, 1H), 7.00-6.86 (m, 5H), 7.04 (dd, 1H), 7.34-7.25 (m, 2H); MS (APCI) m/z (rel intensity) 405.4 (100).

reactant | (S)-2-trifluoromethyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1)(F)F | C21H23F3N4O
reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]-azulen-10-ylamine hydrochloride | 1.2 g | Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (R)-2-phenoxymethyl-piperazine | 2.6 g | O(C1=CC=CC=C1)C[C@@H]1NCCNC1 | C11H16N2O
product | (R)-10-(3-Phenoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 728 mg | O(C1=CC=CC=C1)C[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C23H24N4OS
